US08980887B2
N-ethyl-N-(3-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 9)
According to the method of Example 14, 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(3-pyridinylmethyl)ethylamine were used as raw materials for synthesis, to obtain white solid powder, yield 70.8%. m.p. 245-248° C., ESI-MS m/z: 454[M+H]+, 1H NMR(DMSO-d6, 400 MHz)δ: 1.06(t, 0.7H, J=7.00 Hz), 1.25(t, 2.3H, J=7.00 Hz), 2.58(s, 3H), 3.34(q, 0.5H, J=7.00 Hz), 3.58(q, 1.5H, J=7.00 Hz), 4.45(s, 0.5H), 4.57(s, 1.5H), 4.70(s, 1.5H), 4.92(s, 0.5H), 7.44-7.47(d, 1H, J=7.00 Hz), 7.56(dd, 0.2H, J=8.40 Hz, 1.96 Hz), 7.63(dd, 0.8H, J=8.40 Hz, 2.24 Hz), 7.80(s, 1H), 7.86(d, 0.2H, J=2.24 Hz), 7.87(d, 0.8H, J=1.96 Hz), 7.90(m, 1H), 7.94(d, 1H, J=8.40 Hz), 8.30-8.31(m, 1H), 8.74-8.77(m, 1H), 8.79(d, 1H, J=7.00 Hz), 8.82(m, 1H).

reactant | 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC=1C=C(C=CC1Cl)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H12Cl2N2O2
reactant | N-(3-pyridinylmethyl)ethylamine | N1=CC(=CC=C1)CNCC | C8H12N2
product | N-ethyl-N-(3-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 70.8% | Cl.C(C)N(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC(=C(C=C2)Cl)Cl)=O)CC=2C=NC=CC2 | InChI=1S/C24H22Cl2N4O.ClH/c1-3-29(15-17-5-4-9-27-14-17)23(31)13-21-24(18-6-7-19(25)20(26)12-18)28-22-11-16(2)8-10-30(21)22;/h4-12,14H,3,13,15H2,1-2H3;1H
